US05244588
Phenol (376 g, 4 mol), hexadecene (α-olefin) (449 g, 2 mol) and ion exchange resin (trade-mark: Dia-ion RCP-145HD) (34 g) were charged in a reactor and stirred at 110° C. for 2 hours. The ion exchange resin was filtered off and the excessive phenol and hexadecene were distilled off under reduced pressure. After distillation under reduced pressure, mono-hexadecylphenol was obtained. The yield was 510 g.

reactant | Phenol | 4 mol, 376 g | C1(=CC=CC=C1)O | C6H6O
reactant | hexadecene | 2 mol, 449 g | C=CCCCCCCCCCCCCCC | C16H32
product | mono-hexadecylphenol | C(CCCCCCCCCCCCCCC)C1=CC=C(C=C1)O | C22H38O
